US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1-N-(2-propynyl)piperidine
A mixture of 0.900 g. (2.97 mmoles) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]piperidine, 481 mg. (3.49 mmoles) of anhydrous potassium carbonate and 353 mg. (2.97 mmoles) of 1-bromo-2-propyne in 20 ml. of ethanol is heated at reflux for 22 hours. The reaction mixture is then evaporated and dissolved in 100 ml. of saturated sodium bicarbonate and 200 ml. of dichloromethane. The organic extract is washed with two 150 ml. portions of saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 100 g. silica gel eluted with 2% methanol-dichloromethane. The product is crystallized from pentane (117 mg., 11.5%).

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]piperidine | 2.97 mmoles | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CNCCC1)O | C20H33NO
reactant | potassium carbonate | 3.49 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-propyne | 2.97 mmoles | BrCC#C | C3H3Br
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-1-N-(2-propynyl)piperidine | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CN(CCC1)CC#C)O | C23H35NO
